US04053296
A solution of 12 g (0.3 mole) of sodium hydroxide in 20 ml of water was added dropwise, while cooling, to a suspension of 20.9 g (0.3 mole) of hydroxylamine hydrochloride in 200 ml of ethanol and a solution of 42.8 g (0.2 mole) of ferrocenealdehyde in 200 ml of ethanol was then added. After boiling for 5 hours under reflux, the reaction mixture was cooled. The undissolved constitutents were filtered off, the filtrate was concentrated to dryness, the residue was suspended in water, the suspension was filtered and the product was dried. In this way 42 g (91.7% of theory) of ferrocenealdoxime with a melting point of 228° C were obtained.

reactant | sodium hydroxide | 0.3 mole, 12 g | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 0.3 mole, 20.9 g | Cl.NO
reactant | ferrocenealdehyde | 0.2 mole, 42.8 g | [C-]1(C=CC=C1)C=O.[CH-]1C=CC=C1.[Fe+2]
solvent | water | 20 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ferrocenealdoxime | 42 g, 91.7% | [C-]1(C=CC=C1)C=NO.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C6H6NO.C5H5.Fe/c8-7-5-6-3-1-2-4-6;1-2-4-5-3-1;/h1-5,8H;1-5H;/q2*-1;+2
